US07642369B2
To a solution of heptanoic acid (0.46 ml, 3.2 mmol) and H-Ser-OCH3 (0.5 g, 3.2 mmol) in CH2Cl2 (15 ml) were added HBTU (1.83 g, 4.8 mmol), HOBt (0.74 g, 4.8 mmol) and lastly diisopropylethylamine (2.8 ml, 16 mmol). Reaction was stirred overnight at room temperature. The resulting mixture was subjected to flash column chromatography (hexane/EtOAc, 1:2) yielding (S)—N-heptanoyl-serine methyl ester (588.6 mg, 79%) as yellowish oil. 1H NMR: δ=6.47 (b, 1H, NH), 4.69 (m, 1H, 2-H), 3.94 (m, 2H, 3-H), 3.79 (s, 3H, 1-OCH3), 2.27 (t, 3J=7.6 Hz, 2H, 2′-H), 1.63 (m, 2H, HHep), 1.29 (m, 6H, HHep), 0.88 (m, 3H, 7′-CH3) ppm.

reactant | heptanoic acid | 3.2 mmol, 0.46 ml | C(CCCCCC)(=O)O | C7H14O2
reactant | H-Ser-OCH3 | 3.2 mmol, 0.5 g | N[C@@H](CO)C(=O)OC | C4H9NO3
reactant | HBTU | 4.8 mmol, 1.83 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 4.8 mmol, 0.74 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 16 mmol, 2.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | (S)—N-heptanoyl-serine methyl ester | 588.6 mg, 79% | COC([C@@H](NC(CCCCCC)=O)CO)=O | C11H21NO4
